US04438270
To a solution of anhydrous homocysteine hydrochloride (0.1 mole) in 60 ml of dimethylformamide is added 42 g (0.15 mole) of tritylchloride. The reaction mixture is stirred at room temperature for 2 days. Upon addition of 10% sodium acetate solution (500 ml) S-trityl-homocysteine precipitates together with triphenylcarbinol. Recrystallization in acetone affords pure S-tritylhomocysteine.

reactant | homocysteine hydrochloride | 0.1 mole | Cl.N[C@@H](CCS)C(=O)O
reactant | tritylchloride | 0.15 mole, 42 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium acetate | 500 ml | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | S-tritylhomocysteine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCC[C@H](N)C(=O)O | C23H23NO2S
